US04375474
A solution of 1-chloro-4-(4-chlorophenyl)-2-butanol (125 g) in acetone (200 ml) at 0° C. was treated with 570 ml of Jones reagent (from sodium dichromate dihydrate (100 g), concentrated sulfuric acid (136 g) and water to 500 ml) and stirred overnight at room temperature. The resulting solution was diluted with water (200 ml), extracted with ether (3×300 ml) and the extracts washed with water, aqueous sodium bicarbonate, and dried (MgSO4). Evaporation of the ether gave 121 g of 1-chloro-4-(4-chlorophenyl)-2-butanone. The analytical sample from hexane had m.p. 65°-67° C.

reactant | 1-chloro-4-(4-chlorophenyl)-2-butanol | 125 g | ClCC(CCC1=CC=C(C=C1)Cl)O | C10H12Cl2O
reactant | Jones reagent | 570 ml, 100 g | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | 200 ml | O | H2O
product | 1-chloro-4-(4-chlorophenyl)-2-butanone | 121 g | ClCC(CCC1=CC=C(C=C1)Cl)=O | C10H10Cl2O
